US07723373B2
(a) 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole
To a solution of methylphenylhydrazine (7 g) in acetonitrile (100 ml) was added 1-[(4-chlorophenyl)thio]acetone (8.84 g) and water (10 ml). The mixture was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and the residue dissolved in dichloromethane. The solution was washed with sodium hydrogen carbonate, brine, dried (MgSO4) and concentrated in vacuo. The residue was recrystallised (methanol) to give the sub-title compound (6 g).

reactant | methylphenylhydrazine | 7 g | CN(N)C1=CC=CC=C1 | C7H10N2
reactant | 1-[(4-chlorophenyl)thio]acetone | 8.84 g | ClC1=CC=C(C=C1)SCC(=O)C | C9H9ClOS
reactant | water | 10 ml | O | H2O
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole | 6 g | ClC1=CC=C(C=C1)SC1=C(NC2=CC=C(C=C12)C)C | C16H14ClNS
